Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14].[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.33398924732
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.95160069941
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.87999695308
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.35067758308
[H:4].[O:1]=[C:2]([C:3][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.7185831902
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5][H:6],3.41792937543
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.15435372824
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[O:12][O:13]1>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[O:12][O:13],-0.64820147631
[C:1]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.54703246055
[C:1]#[C:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.4596759952900005
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],7.2329998529
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.81620080315
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[O:7][H:8],1.24921670163
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][H:11],1.17109523625
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[O:8]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.198893421879
[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],-1.95395652038
[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:3],1.88638536838
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],2.05651693346
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.51870403241
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9].[O:1],7.93134823098
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.69304731391
[C:10]([H:11])#[C:12][C:13]([H:14])[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],-1.01505493472
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[C:6][O:7][H:8].[H:5],2.3476642720700003
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])([C:10][H:11])[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:12]([H:13])[H:14],2.2028119
[C:11]([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-7.45823045
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][O:8][H:9],-1.36924205669
[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.34991031795
[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-5.95973125458
[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15][H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-5.21738507061
